US03947445
Cis-5-(N-methylcarbamyl)-1-benzylpyrrolidine-2-carboxylic acid (32.3 g, 0.123 mole) and acetic anhydride (160 ml) were heated together at 100°C for 45 minutes after all of the solid had dissolved. Removal of solvent in vacuo left a red-brown oil that was dissolved in a minimum amount of benzene. After removal of 2.0 g of unreacted cis-5-(N-methylcarbamyl)-1-benzylpyrrolidine-2-carboxylic acid by filtration, the solution of desired product was chromatographed on 900 g alumina with benzene elution to give 13.2 g (44%) of pure, oily 8-benzyl-3-methyl-3,8-diazabicyclo[3.2.1]octane-2,4-dione. Treatment of a sample with excess ethanolic hydrogen chloride in diethyl ether solution produced a hydrochloride salt, melting point 140°-170°C. A sample of the free base, melting point 73°-75°C, was subsequently obtained by slow crystallization from benzene.

reactant | Cis-5-(N-methylcarbamyl)-1-benzylpyrrolidine-2-carboxylic acid | 0.123 mole, 32.3 g | CNC(=O)[C@@H]1CC[C@@H](N1CC1=CC=CC=C1)C(=O)O | C14H18N2O3
solvent | acetic anhydride | 160 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 8-benzyl-3-methyl-3,8-diazabicyclo[3.2.1]octane-2,4-dione | C(C1=CC=CC=C1)N1C2C(N(C(C1CC2)=O)C)=O | C14H16N2O2
